US04791114
Preparation of 2-(2-benzimidazolylmethylthio)pyrimidine
10.0 g (0.06 mole) of 2-chloromethylbenzimidazole are added to a solution of 6.7 g (0.06 mole) of 2-mercaptopyrimidine and 2.4 g (0.06 mole) of sodium hydroxide in 200 ml of ethanol and 20 ml of water. The mixture is maintained under reflux for 2 hours and the ethanol evaporated off. The residue is taken up with water (50 ml) and extracted with ethyl acetate (3×50 ml), the organic phase is dried with sodium sulfate, filtered and evaporated to a volume of 40 ml of solution, in which there crystallize 10.2 g (70%) of 2-(2-benzimidazolylmethylthio)pyrimidine, melting point 154°-155° C.

reactant | 2-chloromethylbenzimidazole | 0.06 mole, 10.0 g | ClCC=1NC2=C(N1)C=CC=C2 | C8H7ClN2
reactant | 2-mercaptopyrimidine | 0.06 mole, 6.7 g | SC1=NC=CC=N1 | C4H4N2S
reactant | sodium hydroxide | 0.06 mole, 2.4 g | [OH-].[Na+]
solvent | ethanol | 200 ml | C(C)O | C2H6O
solvent | water | 20 ml | O | H2O
product | 2-(2-benzimidazolylmethylthio)pyrimidine | N1=C(NC2=C1C=CC=C2)CSC2=NC=CC=N2 | C12H10N4S
